US07425568B2
2-Phenyl-chroman-7-ol was prepared as described for 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine in Example 1(a) starting from 1.0 g of 7-hydroxy-flavanone. The product was purified by column chromatography using heptane-ethyl acetate (2:1) as an eluant. 1H NMR (400 MHz, CD3OD) δ: 7.41-7.28 (m, 5H), 6.86 (d, 1H, J 8.2 Hz), 6.32 (dd, 1H, J 8.2, 2.4 Hz), 6.29 (d, 1H, J 2.4 Hz), 5.00 (dd, 1H, J 9.9, 2.4 Hz), 2.84 (m, 1H), 2.64 (m, 1H), 2.15 (m, 1H), 1.99 (m, 1H).

reactant | 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16N2O4
reactant | 7-hydroxy-flavanone | 1.0 g | OC1=CC=C2C(CC(OC2=C1)C1=CC=CC=C1)=O | C15H12O3
product | 2-Phenyl-chroman-7-ol | C1(=CC=CC=C1)C1OC2=CC(=CC=C2CC1)O | C15H14O2
